US08802663B2
Step 2: 2-(4-(3-(2,5-difluorophenyl)-1,2,4-oxadiazol-5-yl)-5-phenyl-1H-pyrazol-1-yl)ethyl methanesulfonate
Mesyl chloride (280 μL; 3.6 mmol) was added to a solution of 2-(4-(3-(2,5-difluorophenyl)-1,2,4-oxadiazol-5-yl)-5-phenyl-1H-pyrazol-1-yl)ethanol (663 mg; 1.8 mmol), obtained from step 1, and triethylamine (502 μL; 3.6 mmol) in dry DCM (5 mL) at 0° C. The tube was sealed and allowed to warm to room temperature overnight. The mixture was washed with saturated aqueous sodium hydrogen carbonate and the organic fraction passed through a hydrophobic frit and the solvent removed in vacuo to give the title compound as a pale yellow solid (785 mg; 97%). 1H NMR (CDCl3, 400 MHz) δ 8.31 (1 H, s), 7.69-7.64 (1 H, m), 7.59-7.81 (3 H, m), 7.50-7.45 (2H, m), 7.21-7.10 (2 H, m), 4.64 (2 H, t, J=5.2 Hz), 4.38 (2 H, t, J=5.2 Hz), 2.90 (3 H, s). LC/MS: 447 (M+H)+. HPLC (Method A) Rt=3.69 min (Purity: 99.4%).

reactant | Mesyl chloride | 3.6 mmol, 280 μL | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | 2-(4-(3-(2,5-difluorophenyl)-1,2,4-oxadiazol-5-yl)-5-phenyl-1H-pyrazol-1-yl)ethanol | 1.8 mmol, 663 mg | FC1=C(C=C(C=C1)F)C1=NOC(=N1)C=1C=NN(C1C1=CC=CC=C1)CCO | C19H14F2N4O2
reactant | triethylamine | 3.6 mmol, 502 μL | C(C)N(CC)CC | C6H15N
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-(3-(2,5-difluorophenyl)-1,2,4-oxadiazol-5-yl)-5-phenyl-1H-pyrazol-1-yl)ethyl methanesulfonate | 785 mg, 97% | CS(=O)(=O)OCCN1N=CC(=C1C1=CC=CC=C1)C1=NC(=NO1)C1=C(C=CC(=C1)F)F | C20H16F2N4O4S
